US03941803
In the manner given in Example 33, 5-fluoro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone in ethanol is heated with hydrazine to give 8-fluoro-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 5-fluoro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone | FC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H16FN3O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 8-fluoro-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C=CN3)C3=CC=CC=C3)C1 | C17H12FN3
